US07238676B2
(2S,3S,4R,5R)-5-{2-{[({[2-(Diisopropylamino)ethyl]amino}carbonyl)amino]methyl}-6-[(1-naphthylmethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide
The title compound was prepared from (2S,3S,4R,5R)-5-{2-(aminomethyl)-6-[(1-naphthylmethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide (Preparation 69) and N-[2-(diisopropylamino)ethyl]-1H-imidazole-1-carboxamide (Preparation 27) by similar procedure to that used in Example 3.

reactant | (2S,3S,4R,5R)-5-{2-(aminomethyl)-6-[(1-naphthylmethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | NCC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)NCC1=CC=CC2=CC=CC=C12 | C24H27N7O4
reactant | N-[2-(diisopropylamino)ethyl]-1H-imidazole-1-carboxamide | C(C)(C)N(CCNC(=O)N1C=NC=C1)C(C)C | C12H22N4O
product | (2S,3S,4R,5R)-5-{2-{[({[2-(Diisopropylamino)ethyl]amino}carbonyl)amino]methyl}-6-[(1-naphthylmethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | C(C)(C)N(CCNC(=O)NCC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)NCC1=CC=CC2=CC=CC=C12)C(C)C | C33H45N9O5
